US08236835B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(pyridin-3-ylmethylene)piperidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as required to use nicotinaldehyde in place of benzaldehyde to react with N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a white solid in 17% yield: mp 206-208° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 8.69 (br s, 1H), 8.54 (br s, 1H), 7.91 (s, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.39-7.21 (m, 6H), 6.26 (t, J=5.5 Hz, 1H), 4.57 (d, J=5.5 Hz, 2H), 4.32-4.22 (m, 2H), 2.93-2.82 (m, 2H), 2.64 (s, 3H), 2.09-1.96 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 163.8, 162.6, 157.3, 152.3, 150.7, 149.4, 138.0, 136.8, 135.5, 130.5, 128.8, 127.9, 127.6, 123.5, 120.1, 47.4, 44.0, 25.9, 22.2, 17.4; MS (ES+) m/z 419.2 (M+1).

reactant | nicotinaldehyde | C(C1=CN=CC=C1)=O | C6H5NO
reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
product | N-benzyl-4-methyl-2-(2-oxo-3-(pyridin-3-ylmethylene)piperidin-1-yl)thiazole-5-carboxamide | 17% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)=CC=1C=NC=CC1)=O)C | C23H22N4O2S
